US05944858
5.2% N-cyclohexyl-N,N-dimethylamine;
1.6% N,N'-disalicylidene-1,2-propanediamine as an 80% solution in xylene; and

reactant | N,N'-disalicylidene-1,2-propanediamine | C(C=1C(O)=CC=CC1)=NCC(C)N=CC=1C(O)=CC=CC1 | C17H18N2O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-cyclohexyl-N,N-dimethylamine | C1(CCCCC1)N(C)C | C8H17N
